US07767672B2
N-(4-(4-(5-methyl-1H-pyrazol-3-ylamino)-6-(3-cyclopropyl-3-methoxyazetidin-1-yl)pyrimidin-2-ylthio)phenyl)cyclo propanecarboxamide
3-Cyclopropylazetidin-3-yl diethyl phosphate (103 mg, 0.36 mmol) was added to a solution of N-(4-(4-(5-methyl-1H-pyrazol-3-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)cyclopropanecarboxamide (96 mg, 0.24 mmol) and DIPEA (0.40 ml, 2.32 mmol) in methanol (5 ml), and the mixture was heated to 65° C. for 16 hours. The volatile components of the mixture were then removed in vacuo and the residue purified mass directed preparative HPLC, eluted with Acetonitrile/water/TFA to give the product as a white solid after freeze drying (6.3 mg, 5.3%). DMSO-d6: 0.34 (2H, m), 0.55 (2H, m), 0.81 (4H, d), 1.14 (1H, m), 1.81 (1H, m), 1.99 (3H, s), 3.26 (3H, s), 3.79 (4H, m), 5.37 (1H, s), 5.71 (1H, br s), 7.49 (2H, d), 7.71 (2H, d), 9.34 (1H, s), 10.39 (1H, s). ES+ 492

reactant | 3-Cyclopropylazetidin-3-yl diethyl phosphate | 0.36 mmol, 103 mg | P(=O)(OC1(CNC1)C1CC1)(OCC)OCC | C10H20NO4P
reactant | N-(4-(4-(5-methyl-1H-pyrazol-3-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)cyclopropanecarboxamide | 0.24 mmol, 96 mg | CC1=CC(=NN1)NC1=NC(=NC(=C1)Cl)SC1=CC=C(C=C1)NC(=O)C1CC1 | C18H17ClN6OS
reactant | DIPEA | 2.32 mmol, 0.40 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | methanol | 5 ml | CO | CH4O
product | N-(4-(4-(5-methyl-1H-pyrazol-3-ylamino)-6-(3-cyclopropyl-3-methoxyazetidin-1-yl)pyrimidin-2-ylthio)phenyl)cyclo propanecarboxamide | CC1=CC(=NN1)NC1=NC(=NC(=C1)N1CC(C1)(OC)C1CC1)SC1=CC=C(C=C1)NC(=O)C1CC1 | C25H29N7O2S
